US04053618
A solution of 12.5 g of ethyl diethylphosphonocrotonate in 25 ml of tetrahydrofuran was added with stirring to a mixture of 100 ml of anhydrous tetrahydrofuran and 3 g of sodium hydride in 46% of an oil cooled to 0°C and the mixture was stirred for 30 minutes at 0°C. Then, a mixture of 6.4 g of 2-methyl-5-thiazolecarboxaldehyde in 25 ml of tetrahydrofuran was added to the mixture at 0°C and 250 ml of ice and 250 ml of water were added. The mixture was extracted with methylene chloride and the organic extracts were washed with water, dried and filtered. The filtrate was evaporated to dryness under reduced pressure to obtain 13 g of raw product which was dissolved in ether and the ether solution was stirred in the presence of Florosil and then with activated carbon. The mixture was filtered and the filtrate was evaporated to dryness under reduced pressure to obtain 11 g of ethyl 5-(2-methyl-5-thiazolyl)-2,4-pentadienoate in the form of a pale yellow oil.

reactant | ethyl diethylphosphonocrotonate | 12.5 g | C(C)OP(=O)(OCC)/C(/C(=O)OCC)=C\C | C10H19O5P
reactant | sodium hydride | 3 g | [H-].[Na+]
reactant | 2-methyl-5-thiazolecarboxaldehyde | 6.4 g | CC=1SC(=CN1)C=O | C5H5NOS
reactant | water | 250 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 5-(2-methyl-5-thiazolyl)-2,4-pentadienoate | 11 g | CC=1SC(=CN1)C=CC=CC(=O)OCC | C11H13NO2S
